US07423012B2
2-(2-tert-Butoxycarbonylamino-pyridin-4-ylmethylene)-succinic acid 4-benzyl ester 1-tert-butyl ester (2.81 g, 7.60 mmol) and Pd/C (10%, 400 mg) were suspended in EtOH and hydrogenated at 41 atm. and 28° C. for 3 days. The catalyst was removed from the reaction mixture by filtration. The catalyst was washed with EtOH (96%). 1 M K2CO3 (30 mL) was added to the filtrate followed by addition of water (50 mL). After 2 days the reaction mixture was evaporated to ca 80 mL, then brine (10 mL) was added and the reaction mixture extracted with ether. The aqueous phase was acidified to pH=3 and extracted with chloroform. Methanol (25 mL) was added and the reaction mixture was dried (Na2SO4+CaSO4) and filtered to give 2-(2-tert-butoxycarbonylamino-pyridin-4-ylmethyl)-succinic acid 1-tert-butyl ester (1.90 g, 83%).

reactant | 2-(2-tert-Butoxycarbonylamino-pyridin-4-ylmethylene)-succinic acid 4-benzyl ester 1-tert-butyl ester | 7.60 mmol, 2.81 g | C(C)(C)(C)OC(C(CC(=O)OCC1=CC=CC=C1)=CC1=CC(=NC=C1)NC(=O)OC(C)(C)C)=O | C26H32N2O6
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 2-(2-tert-butoxycarbonylamino-pyridin-4-ylmethyl)-succinic acid 1-tert-butyl ester | 1.90 g, 83% | C(C)(C)(C)OC(C(CC(=O)O)CC1=CC(=NC=C1)NC(=O)OC(C)(C)C)=O | C19H28N2O6
